US04952707
Crude methoxy(7-methoxynaphth-2-yl)methylene adamantane (247 mg, 0.739 mmol) was added to sodium ethylthiolate (62 mg, 0.743 mmol) in dry DMF (4 ml) and the solution was refluxed under argon for 4 hours deprotecting the aromatic methoxy moiety to the naphthol. Excess sodium ethanethiolate (122 mg, 1.45 mmol) was added in two portions during the reflux to push the demethylation to completion. The naphthol was worked up by partitioning the cooled solution between EtOAc and minimal H2O. Traces of naphthol in the aqueous layer were recovered with two EtOAc washes. The EtOAc layers were dried and evaporated. The crude naphthol was immediately acylated upon dissolution in acetic anhydride (1 ml) and pyridine (2 ml) with gentle warming to 50° C. After evaporation, the reaction mixture was chromatographed on a silica gel column prewashed with 10% EtOAc/hexanes containing 1% triethylamine, eluting with the same EtOAc/hexanes/TEA solvent mixture. The four-step reaction sequence--oxidation, enol ether formation, aromatic demethylation and acylation--gave 69.3 mg (25.8%) of methoxy(7-acetoxynaphth-2-yl)methylene adamantane, m.p. 125° C.

reactant | methoxy(7-methoxynaphth-2-yl)methylene adamantane | 0.739 mmol, 247 mg | COC12C(C3CC(CC(C1)C3)C2)=CC2=CC3=CC(=CC=C3C=C2)OC | C23H26O2
reactant | naphthol | C=1C=CC=2C(C1)=CC=CC2O | C10H8O
reactant | sodium ethanethiolate | 1.45 mmol, 122 mg | C(C)[S-].[Na+]
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | methoxy(7-acetoxynaphth-2-yl)methylene adamantane | 69.3 mg, 25.8% | COC12C(C3CC(CC(C1)C3)C2)=CC2=CC3=CC(=CC=C3C=C2)OC(C)=O | C24H26O3
